US04444768
1.6 g (0.005 mol) of 2-(benzoylamino-ethyl)-indole-3-acetamide is heated under reflux for 2 hours in 16 ml of phosphorus oxychloride. Excess phosphorus oxychloride is distilled off, the oily residue is taken up in water and by-products of the reaction are removed by extracting with ether. Concentrated ammonia is added to the aqueous phase, while cooling, and extraction with ether is carried out. After washing and drying the ether phase and concentrating it by evaporation, 1-phenyl-3,4-dihydro-pyrimido[1,6-a]indole-5-acetonitrile is obtained as a yellowish oil which, by dissolving in methanol and adding ethereal hydrochloric acid, can be converted into a crystalline hydrochloride having a melting point of 195°-205°.

reactant | 2-(benzoylamino-ethyl)-indole-3-acetamide | 0.005 mol, 1.6 g | C(C1=CC=CC=C1)(=O)NCCC=1NC2=CC=CC=C2C1CC(=O)N | C19H19N3O2
solvent | phosphorus oxychloride | 16 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-phenyl-3,4-dihydro-pyrimido[1,6-a]indole-5-acetonitrile | C1(=CC=CC=C1)C1=NCCC=2N1C1=CC=CC=C1C2CC#N | C19H15N3
